data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2054,2281,[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[O:16][C:17]3([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,15.901174287781007,-63.35595641444887
3903,4464,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][O-:16])[C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:17](=[O:18])[O:19][CH3:20])[NH:15][O:16]1,water,298.15,24.35861132784869,-4.653269589053639
4037,4622,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][C-:13]([C:14]#[N:15])[C:16]#[N:17])[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([C:14]#[N:15])([C:16]#[N:17])[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:18](=[O:19])[O:20][CH3:21],water,298.15,8.233041551254912,-43.90620412176569
4583,5228,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]([CH3:21])=[O:22])[n+:23]1[CH3:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[C:16](=[O:17])[O:18][C:19]2([C:20]([CH3:21])=[O:22])[N:23]1[CH3:24],water,298.15,25.300710962213287,3.859629034160109
3452,3931,[CH3:10][C:11](=[O:12])[N:13]=[N+:14]([CH3:15])[N-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:16]([C:17]#[N:18])[N:14]([CH3:15])[N:13]1[C:11]([CH3:10])=[O:12],water,298.15,27.49672399860333,-8.001553785881281
5162,5860,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[CH:19]=[NH+:20][C-:21]([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:21]([C:22]([CH3:23])=[O:24])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:20][CH:19]2[C:17]([O:16][CH3:15])=[O:18],water,298.15,16.862557972603206,0.3073218612194137
970,1054,[CH2:13]=[NH+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:15]([C:16]([CH3:17])=[O:18])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[NH:14][CH2:13]2,water,298.15,18.007969485750245,-20.675553446364813
1453,1601,[CH3:14][NH:15][C:16](=[O:17])[C-:18]([NH+:19]=[CH:20][C:21]([CH3:22])=[O:23])[C:24]([CH3:25])=[O:26].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([C:24]([CH3:25])=[O:26])[NH:19][CH:20]2[C:21]([CH3:22])=[O:23],water,298.15,30.93558664134952,-1.5093971204723604
4887,5571,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[C:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22])[C:23](=[O:24])[NH:25][CH3:26]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18]#[N:19])([C:20]([CH3:21])=[O:22])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:23](=[O:24])[NH:25][CH3:26],water,298.15,4.753495752991478,-44.56176012764608
4292,4911,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]([CH3:18])=[C:19]([C:20]#[N:21])[C:22]#[N:23]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[N:17]([CH3:18])[C:19]2([C:20]#[N:21])[C:22]#[N:23],water,298.15,34.18425243228237,-13.536176244977884
1536,1696,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[Br:6].[CH3:7][C:8](=[O:9])[CH-:10][O+:11]=[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([Br:6])[CH:10]([C:8]([CH3:7])=[O:9])[O:11][C:12]1([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,20.883315685635942,-26.46959156703485
